US07850872B2
As shown in the following Reaction 8,130 mg (0.6 mmol) of 4-bromophenyl boronic acid was melted in 15 mL of thiophene, and 500 mg (3.22 mmol, 3 eq) of manganese(III) acetate dihydrate was added thereto, and then the reaction solution was refluxed for 1 hour at temperature of 85° C. Next, the reaction solution was filtered with hexane using a funnel charged with silica gel, and dehydrated with magnesium sulfate and distilled under reduced pressure. The compound distilled under reduced pressure was purified with a column chromatography (mobile phase: n-hexane) to obtain 140 mg of 2-(4-bromo-phenyl)-thiophene with a yield of 98%. NMR data of the obtained compound is as follows. [1H NMR (400 MHz, CDCl3): δ 7.50 (m, 4H), 7.25 (d, 2H), 7.07 (t, 1H)].

reactant | 4-bromophenyl boronic acid | 0.6 mmol, 8,130 mg | BrC1=CC=C(C=C1)B(O)O | C6H6BBrO2
reactant | thiophene | 15 mL | S1C=CC=C1 | C4H4S
catalyst | manganese(III) acetate dihydrate | 3.22 mmol, 500 mg, 3 eq | O.O.C(C)(=O)[O-].[Mn+3].C(C)(=O)[O-].C(C)(=O)[O-]
product | 2-(4-bromo-phenyl)-thiophene | 140 mg, yield of 98% | BrC1=CC=C(C=C1)C=1SC=CC1 | C10H7BrS
